US07846959B2
A solution of phenylmethyl 2-{[3-nitro-4-({2-oxo-2-[(phenylmethyl)oxy]ethyl}amino)phenyl]carbonyl}benzoate (0.31 g, 0.59 mmol) in a mixture of tetrahydrofurane-ethyl acetate (1:1, 50 mL) was hydrogenated in the presence of 10% Pd/C (0.15 g) in a Parr shaker at 40 psi, until the consumption of hydrogen ceased. The catalyst was filtered off and the solvent was evaporated. The resulting crude product was converted into its methyl ester in a mixture of benzene-methanol (9:1, 5.0 mL) by the addition of 2.0 M trimethylsilyldiazomethane solution in hexane (0.3 mL, 0.60 mmol). The reaction was quenched by the addition of a few dropps of acetic acid and the solvent was evaporated. The resulting crude product was purified by silica gel flash chromatography (hexane:ethyl acetate 4:1 to 1:1 eluent) to give methyl 2-[(3-oxo-1,2,3,4-tetrahydroquinoxalin-6-yl)carbonyl]benzoate (0.12 g, 67% yield). 1H NMR (400 MHz, DMSO-d6): 8.06 (s, 1H), 7.83 (dd, 1H), 7.64 (d, 1H), 7.52 (t, 1H), 7.38 (d, 1H), 7.09 (7.03 (d, 1H), 4.41 (s, 2H), 3.77 (s, 3H); MS (EI) for C17H14N2O4: 311 (MH+).

reactant | phenylmethyl 2-{[3-nitro-4-({2-oxo-2-[(phenylmethyl)oxy]ethyl}amino)phenyl]carbonyl}benzoate | 0.59 mmol, 0.31 g | [N+](=O)([O-])C=1C=C(C=CC1NCC(OCC1=CC=CC=C1)=O)C(=O)C1=C(C(=O)OCC2=CC=CC=C2)C=CC=C1 | C30H24N2O7
reactant | trimethylsilyldiazomethane | 2.0 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 0.60 mmol, 0.3 mL | CCCCCC | C6H14
solvent | tetrahydrofurane ethyl acetate | 50 mL | O1CCCC1.C(C)(=O)OCC
solvent | benzene-methanol | 5.0 mL | C1(=CC=CC=C1)CO | C7H8O
product | methyl 2-[(3-oxo-1,2,3,4-tetrahydroquinoxalin-6-yl)carbonyl]benzoate | 0.12 g, 67% yield | O=C1CNC2=CC=C(C=C2N1)C(=O)C1=C(C(=O)OC)C=CC=C1 | C17H14N2O4
